US05811439
The same procedures used in Example 1 were repeated except for using 725 mg of indole-4-carbaldehyde and 3,5-dimethoxybenzyl methanesulfonate instead of the benzyl bromide used in Example 1 to give 1.29 g of 1-(3,5-dimethoxybenzyl)indole-4-carbaldehyde as a pale brown amorphous substance. The yield thereof was found to be 86%.

reactant | indole-4-carbaldehyde | 725 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | 3,5-dimethoxybenzyl methanesulfonate | CS(=O)(=O)OCC1=CC(=CC(=C1)OC)OC | C10H14O5S
product | 1-(3,5-dimethoxybenzyl)indole-4-carbaldehyde | 1.29 g | COC=1C=C(CN2C=CC=3C(=CC=CC23)C=O)C=C(C1)OC | C18H17NO3
